US04655836
1,7-diamino-4-oxaheptane;
1,7-diamino-3,5dioxaheptane; 1,10-diamino-4,7-dioxadecane; 1,10-diamino-4,7-dioxa-5-methyldecane; 1,11-diamino-4,9-dioxaundecane; 1,11-diamino-4,8-dioxa-5-methylundecane; 1,11-diamino-4,8-dioxa- 5,6-dimetyl-7-propyonylundecane; 1,14-diamino-4,7,10-trioxatetradecane, 1,13-diamino-4,7,10-trioxa-5,8-dimethyltridecane; 1,16-diamino-4,7,10,13-tetraoxahexadecane; 1,20-diamino-4,17-dioxaeicosane; and especially 1,12-diamino-4,9-dioxadodecane, 1,14-diamino-4,11-dioxatetradecane, 1,14-diamino-6,6,8(6,8,8)-trimethyl-4,11-dioxatetradecane, and 1,11-diamino-6,6-dimethyl-4,8-dioxaundecane and the compounds specificed in formulas (b) and (c) wherein m is 2 to 14 and k is 7 to 11, respectively.

reactant | 1,7-diamino-3,5dioxaheptane | NCCOCOCCN | C5H14N2O2
reactant | 1,10-diamino-4,7-dioxadecane | NCCCOCCOCCCN | C8H20N2O2
reactant | 1,11-diamino-4,9-dioxaundecane | NCCCOCCCCOCCN | C9H22N2O2
reactant | 1,14-diamino-4,7,10-trioxatetradecane | NCCCOCCOCCOCCCCN | C11H26N2O3
reactant | 1,16-diamino-4,7,10,13-tetraoxahexadecane | NCCCOCCOCCOCCOCCCN | C12H28N2O4
reactant | 1,20-diamino-4,17-dioxaeicosane | NCCCOCCCCCCCCCCCCOCCCN | C18H40N2O2
reactant | 1,12-diamino-4,9-dioxadodecane | NCCCOCCCCOCCCN | C10H24N2O2
reactant | 1,14-diamino-4,11-dioxatetradecane | NCCCOCCCCCCOCCCN | C12H28N2O2
reactant | 1,11-diamino-6,6-dimethyl-4,8-dioxaundecane | NCCCOCC(COCCCN)(C)C | C11H26N2O2
product | 1,7-diamino-4-oxaheptane | NCCCOCCCN | C6H16N2O
